US08685980B2
Following Buchwald Method B, 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (120 mg, 0.411 mmol) and N-{(E)-2-[(S)-3-(tert-butyl-dimethyl-silanyloxy)-pyrrolidin-1-yl]-vinyl}-acrylamidine (112 mg, 0.401 mmol), followed by deprotection with 2 mL of TBAF to give 7-cyclopentyl-2-[5-(3-hydroxy-azetidin-1-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (18 mg, 46%). MS (ESI) m/z 422.5 (M+H)+

reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.411 mmol, 120 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | N-{(E)-2-[(S)-3-(tert-butyl-dimethyl-silanyloxy)-pyrrolidin-1-yl]-vinyl}-acrylamidine | 0.401 mmol, 112 mg | C(C)(C)(C)[Si](O[C@@H]1CN(CC1)/C=C/NC(C=C)=N)(C)C | C15H29N3OSi
reactant | TBAF | 2 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 7-cyclopentyl-2-[5-(3-hydroxy-azetidin-1-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 18 mg, 46% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CC(C2)O)N1C1CCCC1)C | C22H27N7O2
